US08541592B2
2-((S)-1-(4-fluorophenyl)ethylamino)-5-methyl-5-(4-(pyrrolidine-1-carbonyl)phenyl)thiazol-4(5H)-one
To a solution of 4-(2-((S)-1-(4-fluorophenyl)ethylamino)-5-methyl-4-oxo-4,5-dihydrothiazol-5-yl)benzoyl chloride (0.100 g, 0.26 mmol) in CH2Cl2 (1 mL) in a 0° C. bath was added pyrrolidine (Aldrich, 0.063 ml, 0.77 mmol). The mixture was gradually warmed to ambient temp. and stirred for 40 min. The reaction mixture was then added to water (5 mL), and the aqueous layer was extracted with CH2Cl2 three times. The combined organic phases were dried over Na2SO4, and concentrated in vacuo. The crude product was purified by silica gel chromatography. MS: 426 (M+1).

reactant | 4-(2-((S)-1-(4-fluorophenyl)ethylamino)-5-methyl-4-oxo-4,5-dihydrothiazol-5-yl)benzoyl chloride | 0.26 mmol, 0.100 g | FC1=CC=C(C=C1)[C@H](C)NC=1SC(C(N1)=O)(C)C1=CC=C(C(=O)Cl)C=C1 | C19H16ClFN2O2S
reactant | pyrrolidine | 0.77 mmol, 0.063 ml | N1CCCC1 | C4H9N
reactant | water | 5 mL | O | H2O
solvent | CH2Cl2 | 1 mL | C(Cl)Cl | CH2Cl2
product | 2-((S)-1-(4-fluorophenyl)ethylamino)-5-methyl-5-(4-(pyrrolidine-1-carbonyl)phenyl)thiazol-4(5H)-one | FC1=CC=C(C=C1)[C@H](C)NC=1SC(C(N1)=O)(C1=CC=C(C=C1)C(=O)N1CCCC1)C | C23H24FN3O2S
